* /home/hemanth/esim-workspace/ringcolmult/ringcolmult.cir

.include smttrigger21.sub
.include avsd_opamp.sub
.include ringoscillator.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
xsc2 net-_sc1-pad1_ inte_out sky130_fd_pr__cap_mim_m3_1 W=99 L =999 MF=1
x1 net-_x1-pad1_ gnd gnd net-_sc1-pad1_ inte_out gnd avsd_opamp
xsc1 net-_sc1-pad1_ vin net-_sc1-pad3_ sky130_fd_pr__res_generic_nd W=1 L=9900 MF=1
xsc3 gnd inte_out net-_sc1-pad3_ sky130_fd_pr__res_generic_nd W=1 L=9000 MF=1
* u1  inte_out mux_in net-_u1-pad3_ net-_u1-pad4_ adc_bridge_2
* s c m o d e
v4  mux_in gnd sine(0 3.3 70 0 0)
* u2  net-_u1-pad3_ net-_u1-pad4_ net-_u2-pad3_ mux_out m21
v1  vin gnd sine(0 3.3 50 0 0)
v3 net-_x1-pad1_ gnd  dc 5
v2 net-_sc1-pad3_ gnd  dc 5
v5  net-_u3-pad1_ gnd pulse(0 5 0 5n 10n 10m 20m)
* u3  net-_u3-pad1_ net-_u2-pad3_ adc_bridge_1
* u7  mux_out net-_u7-pad2_ dac_bridge_1
x2 net-_u7-pad2_ gnd ringosc ringoscillator
x3 ringosc net-_x3-pad2_ smt_out smttrigger21
v6 net-_x3-pad2_ gnd  dc 5
* u4  net-_u4-pad1_ gnd net-_u19-pad1_ net-_u19-pad2_ net-_u19-pad3_ net-_u19-pad4_ net-_u19-pad5_ net-_u19-pad6_ ringcounter
* u5  smt_out net-_u4-pad1_ adc_bridge_1
* u13  count5 plot_v1
* u14  count4 plot_v1
* u15  count3 plot_v1
* u16  count2 plot_v1
* u17  count1 plot_v1
* u18  count0 plot_v1
* u11  smt_out plot_v1
* u8  ringosc plot_v1
* u12  mux_out plot_v1
* u9  inte_out plot_v1
* u10  mux_in plot_v1
* u6  vin plot_v1
* u19  net-_u19-pad1_ net-_u19-pad2_ net-_u19-pad3_ net-_u19-pad4_ net-_u19-pad5_ net-_u19-pad6_ count5 count4 count3 count2 count1 count0 dac_bridge_6
a1 [inte_out mux_in ] [net-_u1-pad3_ net-_u1-pad4_ ] u1
a2 [net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u2-pad3_ ] [mux_out ] u2
a3 [net-_u3-pad1_ ] [net-_u2-pad3_ ] u3
a4 [mux_out ] [net-_u7-pad2_ ] u7
a5 [net-_u4-pad1_ ] [gnd ] [net-_u19-pad1_ net-_u19-pad2_ net-_u19-pad3_ net-_u19-pad4_ net-_u19-pad5_ net-_u19-pad6_ ] u4
a6 [smt_out ] [net-_u4-pad1_ ] u5
a7 [net-_u19-pad1_ net-_u19-pad2_ net-_u19-pad3_ net-_u19-pad4_ net-_u19-pad5_ net-_u19-pad6_ ] [count5 count4 count3 count2 count1 count0 ] u19
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=300m in_high=450m rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             m21, NgSpice Name: m21
.model u2 m21(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=300m in_high=450m rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0 out_high=5 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ringcounter, NgSpice Name: ringcounter
.model u4 ringcounter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=2 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=300m in_high=450m rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, NgSpice Name: dac_bridge
.model u19 dac_bridge(out_low=0 out_high=5 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.05e-00 0.1e-00 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(count5)+5 v(count4)+10 v(count3)+15 v(count2)+20 v(count1)+25 v(count0)
plot v(smt_out)+5 v(ringosc)+10 v(mux_out)+15 v(inte_out)+20 v(mux_in)+25 v(vin)
.endc
.end
